US09403833B2
Step 3: 7-(Trifluoromethoxy)-1H-benzo[b]azepin-2(5H)-one
To a solution of N-(2-allyl-4-(trifluoromethoxy)phenyl)acrylamide (15 g, 55.3 mmol) in DCM (800 ml) was added Zhan catalyst I (2.0 g, 2.77 mmol) and the mixture was stirred at room temperature for 3 hrs. The resulting mixture was concentrated under reduced pressure to give a crude solid that was recrystallized from ethyl acetate to give the title compound.

reactant | N-(2-allyl-4-(trifluoromethoxy)phenyl)acrylamide | 55.3 mmol, 15 g | C(C=C)C1=C(C=CC(=C1)OC(F)(F)F)NC(C=C)=O | C13H12F3NO2
solvent | DCM | 800 ml | C(Cl)Cl | CH2Cl2
product | 7-(Trifluoromethoxy)-1H-benzo[b]azepin-2(5H)-one | FC(OC1=CC2=C(NC(C=CC2)=O)C=C1)(F)F | C11H8F3NO2
